US06861434B2
1,3,7,8-Tetrahydro-8-[[[(4-methylphenyl)sulfonyl]oxy]methyl]-2H-[1,4]dioxino[2,3-e]benzimidazol-2-one
To a solution of 0.30 g (0.71 mmole) of [(2R)-7,8-diamino-2,3-dihydro-1,4 benzodioxin-2-yl]methyl 4-methylbenzenesulfonate dihydrochloride in 50 mL of methylene chloride was added 0.50 g (3.0 mmole) of carbonyl diimidazole and 0.65 g (5.0 mmole) of diisopropylethylamine. The reaction mixture was stirred under nitrogen for 15 hours. The mixture was then concentrated in vacuum and 250 mL of ethyl acetate added. This solution was washed with 250 mL portions each of 2 N aqueous HCl, saturated aqueous sodium bicarbonate and saturated brine, dried over sodium sulfate, filtered and concentrated in vacuum. The residue was column chromatographed on 25 g of silica gel, using a gradient elution commencing with chloroform and ending with 3% methanol in chloroform. The product fractions were combined and evaporated in vacuum to give 0.21 g of the (R)-enantiomer of the title compound as an off-white solid, m.p. 202-204° C.

reactant | [(2R)-7,8-diamino-2,3-dihydro-1,4 benzodioxin-2-yl]methyl 4-methylbenzenesulfonate dihydrochloride | 0.71 mmole, 0.30 g | Cl.Cl.CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)N)N
reactant | carbonyl diimidazole | 3.0 mmole, 0.50 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | diisopropylethylamine | 5.0 mmole, 0.65 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 1,3,7,8-Tetrahydro-8-[[[(4-methylphenyl)sulfonyl]oxy]methyl]-2H-[1,4]dioxino[2,3-e]benzimidazol-2-one | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(C3=C(NC(N3)=O)C=C2)O1 | C17H16N2O6S
